US06331538B1
3-Benzyloxy-1-ethyl-6-fluoro-7-(4-methylpiperazinyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Following the procedure of Example X-2, the reaction of 3-benzyloxy-7-chloro-1-ethyl-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example N-2, 200 mg, 0.572 mmol) with 4-methylpiperazine (0.152 mL, 1.37 mmol) in dichloromethane (3 mL) afforded 200 mg of the title compound as a solid, mp 178-179° C.

reactant | 3-benzyloxy-7-chloro-1-ethyl-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.572 mmol, 200 mg | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)Cl)F)CC)=O | C16H13ClFN3O3
reactant | 4-methylpiperazine | 1.37 mmol, 0.152 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-Benzyloxy-1-ethyl-6-fluoro-7-(4-methylpiperazinyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 200 mg | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCN(CC2)C)F)CC)=O | C21H24FN5O3
